US06599902B2
Synthesis of 3-[1-[4-(4-Acetyl-piperazin-1-ylmethyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one
5-(2,6-Dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one (357 mg, 1 mmol) was condensed with 4-(4-acetyl-piperazin-1-ylmethyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde (263 mg, 1 mmol) in ethanol (3 mL) and piperidine (3 drops) at 95-100° C. for 2 hours to give the titled compound.

reactant | 5-(2,6-Dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | 1 mmol, 357 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H11Cl2NO3S
reactant | 4-(4-acetyl-piperazin-1-ylmethyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde | 1 mmol, 263 mg | C(C)(=O)N1CCN(CC1)CC=1C(=C(NC1C)C=O)C | C14H21N3O2
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 3-[1-[4-(4-Acetyl-piperazin-1-ylmethyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | C(C)(=O)N1CCN(CC1)CC=1C(=C(NC1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C29H30Cl2N4O4S
